* source I-DECODER-6BITS
R_R6         LSB N195321  100k  
R_R1         MSB N195321  100k  
R_R2         5SB N195321  100k  
R_R3         4SB N195321  100k  
V_VDD         N195321 0 3.3
R_R4         3SB N195321  100k  
R_R5         2SB N195321  100k  
X_U1         0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 2SB
+  3SB 4SB 5SB N195321 N195321 N195321 N195321 N195321 N195321 N195321 N195321
+  N195321 N195321 N195321 N195321 N195321 N195321 N195321 N195321 N195321
+  N195321 N195321 N195321 N195321 N195321 N195321 N195321 N195321 N195321
+  N195321 N195321 N195321 N195321 N195321 N195321 N195321 N195321 N195321
+  N195321 N195321 N195321 N195321 N195321 N195321 N195321 N195321 N195321
+  N195321 N195321 N195321 N195321 N195321 N196033 N196033 N196033 N196033
+  N196033 N196033 N196033 N196033 N196033 N196033 N196033 N196033 N196033
+  N196033 0 LSB MSB N195321 
