* source I-DECODER-6BITS
V_V1         N01001 0 3.3
R_R1         N01001 N0617270  100k  
R_R2         N01001 N0617269  100k  
X_U1         N0617265 N0617266 N0617267 N0617268 N01001 N01001 N01001 N01001
+  N01001 N01001 N01001 N01001 N01001 N01001 N01001 N01001 N01001 N01001 N01001
+  N01001 N01001 N01001 N01001 N01001 N01001 N01001 N01001 N01001 N01001 N01001
+  N01001 N01001 N01001 N01001 N01001 N01001 N01001 N01001 N01001 N01001 N01001
+  N01001 N01001 N01001 N01001 N01001 N01001 N01001 N01001 N01001 N01001 N01001
+  N01001 N01001 N01001 N01001 N01001 N01001 N01001 N01001 N01001 N01001 N01001
+  N01001 N01001 N01001 N01001 0 N0617269 N0617270 N01001 
R_R3         N01001 N0617268  100k  
R_R4         N01001 N0617267  100k  
R_R5         N01001 N0617266  100k  
R_R6         N01001 N0617265  100k  
