* source I-FFD
M_FFD_NAND2_M1         FFD_N00519 FFD_X N00086 N00086 MbreakP           
M_FFD_NAND2_M2         FFD_N00519 FFD_N02333 N00086 N00086 MbreakP           
M_FFD_NAND2_M3         FFD_N00519 FFD_N02333 FFD_NAND2_N53657 FFD_NAND2_N53657
+  MbreakN           
M_FFD_NAND2_M4         FFD_NAND2_N53657 FFD_X 0 0 MbreakN           
M_FFD_NAND4_M1         N00238 N00250 N00086 N00086 MbreakP           
M_FFD_NAND4_M2         N00238 FFD_X N00086 N00086 MbreakP           
M_FFD_NAND4_M3         N00238 FFD_X FFD_NAND4_N53657 FFD_NAND4_N53657 MbreakN  
+          
M_FFD_NAND4_M4         FFD_NAND4_N53657 N00250 0 0 MbreakN           
M_FFD_NAND5_M1         N00250 FFD_ Y N00086 N00086 MbreakP           
M_FFD_NAND5_M2         N00250 N00238 N00086 N00086 MbreakP           
M_FFD_NAND5_M3         N00250 N00238 FFD_NAND5_N53657 FFD_NAND5_N53657 MbreakN 
+           
M_FFD_NAND5_M4         FFD_NAND5_N53657 FFD_ Y 0 0 MbreakN           
M_FFD_NAND_M1         FFD_N02333 N00086 N00086 N00086 MbreakP           
M_FFD_NAND_M2         FFD_N02333 FFD_ Y N00086 N00086 MbreakP           
M_FFD_NAND_M3         FFD_N02333 FFD_ Y FFD_NAND_N53657 FFD_NAND_N53657 MbreakN
+            
M_FFD_NAND_M4         FFD_NAND_N53657 N00086 0 0 MbreakN           
M_FFD_NAND3_M2         FFD_NAND3_N50640 N05175 FFD_NAND3_N50654
+  FFD_NAND3_N50654 MbreakN           
M_FFD_NAND3_M3         FFD_NAND3_N50654 FFD_N02333 0 0 MbreakN           
M_FFD_NAND3_M4         FFD_ Y N05175 N00086 N00086 MbreakP           
M_FFD_NAND3_M5         FFD_ Y FFD_X N00086 N00086 MbreakP           
M_FFD_NAND3_M6         FFD_ Y FFD_N02333 N00086 N00086 MbreakP           
M_FFD_NAND3_M1         FFD_ Y FFD_X FFD_NAND3_N50640 FFD_NAND3_N50640 MbreakN  
+          
M_FFD_NAND1_M1         FFD_X N05175 N00086 N00086 MbreakP           
M_FFD_NAND1_M2         FFD_X FFD_N00519 N00086 N00086 MbreakP           
M_FFD_NAND1_M3         FFD_X FFD_N00519 FFD_NAND1_N53657 FFD_NAND1_N53657
+  MbreakN           
M_FFD_NAND1_M4         FFD_NAND1_N53657 N05175 0 0 MbreakN           
V_V1         N00086 0 5
V_V2         N05175 0  
+PULSE 0 5 9m 1m 1m 9m 20m
R_R1         N00238 0  1k  
R_R2         0 N00250  1k  
