* source I-FFD
V_V3         N09649 0 5
M_NAND_M2         NAND_N05674 N09649 NAND_N05700 NAND_N05700 CMOSN  
+ L=.18u  
+ W=.6u         
M_NAND_M3         N09729 N09649 N09649 N09649 CMOSP  
+ L=.18u  
+ W=1.2u         
M_NAND_M5         N09729 N09600 N09649 N09649 CMOSP  
+ L=.18u  
+ W=1.2u         
M_NAND_M4         N09729 N09649 N09649 N09649 CMOSP  
+ L=.18u  
+ W=1.2u         
M_NAND_M6         NAND_N05700 N09600 0 0 CMOSN  
+ L=.18u  
+ W=.6u         
M_NAND_M1         N09729 N09649 NAND_N05674 NAND_N05674 CMOSN  
+ L=.18u  
+ W=.6u         
R_R1         N09729 0  100k  
V_V2         N09600 0  
+PULSE 0 5 9m 1m 1m 9m 20m
