* source I-FFD-01
V_V4         N05159 0  
+PULSE 0 5 9m 1m 1m 9m 20m
M_FFD_NOR_M4         N00157 FFD_N00859 FFD_NOR_N00319 N00676 MbreakP           
M_FFD_NOR_M1         N00157 FFD_N00859 0 0 MbreakN           
M_FFD_NOR_M2         N00157 FFD_N00807 0 0 MbreakN           
M_FFD_NOR_M3         FFD_NOR_N00319 FFD_N00807 N00676 N00676 MbreakP           
M_FFD_NAND_M1         FFD_N00565 N00676 FFD_NAND_N45225 FFD_NAND_N45225 MbreakN
+            
M_FFD_NAND_M2         FFD_NAND_N45225 N05159 FFD_NAND_N45964 FFD_NAND_N45964
+  MbreakN           
M_FFD_NAND_M3         FFD_N00565 N00676 N00676 N00676 MbreakP           
M_FFD_NAND_M5         FFD_NAND_N45964 N00163 0 0 MbreakN           
M_FFD_NAND_M4         FFD_N00565 N05159 N00676 N00676 MbreakP           
M_FFD_NAND_M6         FFD_N00565 N00163 N00676 N00676 MbreakP           
M_FFD_NAND1_M1         FFD_N00591 N00157 FFD_NAND1_N45225 FFD_NAND1_N45225
+  MbreakN           
M_FFD_NAND1_M2         FFD_NAND1_N45225 N05159 FFD_NAND1_N45964
+  FFD_NAND1_N45964 MbreakN           
M_FFD_NAND1_M3         FFD_N00591 N00157 N00676 N00676 MbreakP           
M_FFD_NAND1_M5         FFD_NAND1_N45964 0 0 0 MbreakN           
M_FFD_NAND1_M4         FFD_N00591 N05159 N00676 N00676 MbreakP           
M_FFD_NAND1_M6         FFD_N00591 0 N00676 N00676 MbreakP           
M_FFD_AND1_M6         FFD_N00859 FFD_AND1_N47705 N00676 N00676 MbreakP         
+   
M_FFD_AND1_M1         FFD_AND1_N47705 N00163 FFD_AND1_N47695 FFD_AND1_N47695
+  MbreakN           
M_FFD_AND1_M2         FFD_AND1_N47695 FFD_N00565 0 0 MbreakN           
M_FFD_AND1_M5         FFD_N00859 FFD_AND1_N47705 0 0 MbreakN           
M_FFD_AND1_M3         FFD_AND1_N47705 N00163 N00676 N00676 MbreakP           
M_FFD_AND1_M4         FFD_AND1_N47705 FFD_N00565 N00676 N00676 MbreakP         
+   
M_FFD_AND_M6         FFD_N00807 FFD_AND_N47705 N00676 N00676 MbreakP           
M_FFD_AND_M1         FFD_AND_N47705 N05159 FFD_AND_N47695 FFD_AND_N47695
+  MbreakN           
M_FFD_AND_M2         FFD_AND_N47695 N00163 0 0 MbreakN           
M_FFD_AND_M5         FFD_N00807 FFD_AND_N47705 0 0 MbreakN           
M_FFD_AND_M3         FFD_AND_N47705 N05159 N00676 N00676 MbreakP           
M_FFD_AND_M4         FFD_AND_N47705 N00163 N00676 N00676 MbreakP           
M_FFD_AND2_M6         FFD_N00657 FFD_AND2_N47705 N00676 N00676 MbreakP         
+   
M_FFD_AND2_M1         FFD_AND2_N47705 FFD_N00591 FFD_AND2_N47695
+  FFD_AND2_N47695 MbreakN           
M_FFD_AND2_M2         FFD_AND2_N47695 N00157 0 0 MbreakN           
M_FFD_AND2_M5         FFD_N00657 FFD_AND2_N47705 0 0 MbreakN           
M_FFD_AND2_M3         FFD_AND2_N47705 FFD_N00591 N00676 N00676 MbreakP         
+   
M_FFD_AND2_M4         FFD_AND2_N47705 N00157 N00676 N00676 MbreakP           
M_FFD_AND3_M6         FFD_N00711 FFD_AND3_N47705 N00676 N00676 MbreakP         
+   
M_FFD_AND3_M1         FFD_AND3_N47705 N00157 FFD_AND3_N47695 FFD_AND3_N47695
+  MbreakN           
M_FFD_AND3_M2         FFD_AND3_N47695 N05159 0 0 MbreakN           
M_FFD_AND3_M5         FFD_N00711 FFD_AND3_N47705 0 0 MbreakN           
M_FFD_AND3_M3         FFD_AND3_N47705 N00157 N00676 N00676 MbreakP           
M_FFD_AND3_M4         FFD_AND3_N47705 N05159 N00676 N00676 MbreakP           
M_FFD_NOR1_M4         N00163 FFD_N00711 FFD_NOR1_N00319 N00676 MbreakP         
+   
M_FFD_NOR1_M1         N00163 FFD_N00711 0 0 MbreakN           
M_FFD_NOR1_M2         N00163 FFD_N00657 0 0 MbreakN           
M_FFD_NOR1_M3         FFD_NOR1_N00319 FFD_N00657 N00676 N00676 MbreakP         
+   
R_R1         N00157 0  100k  
R_R2         N00163 0  100k  
V_V3         N00676 0 5
